US04137313
2.2 gm (7.4 millimols) of 2,5-dihydro-2,5-dimethyl-1,2-thiazino[5,6-b]-indole-4(3H)-one-1,1-dioxide-ethylene ketal were refluxed for one hour in a mixture of 60 ml of 9% hydrochloric acid and 60 ml of methanol. Subsequently, the mixture was evaporated to dryness in vacuo. After taking up the residue in methylene chloride, washing the solution with water, drying and evaporating it, and recrystallizing the raw product from ethanol, 1.6 gm (82% of theory) of 2,5-dihydro-2,5-dimethyl-1,2-thiazino-[5,6-b]indole-4(3H)-one-1,1-dioxide were obtained; M.p.: 180° C.; 1H-NMR (CDCl3): δ = 8.0 (m, 1) and 7.4 (m, 3; arom. H) 4.15 (s, 2, CH2); 4.06 (s, 3, 5-CH3); 3.00 (s, 3, 2-CH3).

reactant | 2,5-dihydro-2,5-dimethyl-1,2-thiazino[5,6-b]-indole-4(3H)-one-1,1-dioxide-ethylene ketal | 7.4 millimols, 2.2 gm | C1COC2(CN(S(C3=C2N(C=2C=CC=CC32)C)(=O)=O)C)O1 | C14H16N2O4S
solvent | hydrochloric acid | 60 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | 2,5-dihydro-2,5-dimethyl-1,2-thiazino-[5,6-b]indole-4(3H)-one-1,1-dioxide | 1.6 gm, 82% | CN1S(C2=C(N(C=3C=CC=CC23)C)C(C1)=O)(=O)=O | C12H12N2O3S
